US09375000B2
Tert-butyl (4-{3-[3,5-bis(trifluoromethyl)phenyl]-2-oxo-3-(trifluoro-methyl)-pyrrolidin-1-yl}-2-chloro-benzyl)carbamate (0.36 g) was dissolved in dichloromethane (6 mL). To the resulting solution was slowly added n-hexane solution (1.8 mL) of 1 mol/l diisobutylaluminum hydride while being cooled with ethanol-dry ice under argon atmosphere, and stirring was continued for 30 minutes at the same temperature. Then, n-hexane solution (0.6 mL) of 1 mol/l diisobutylaluminum hydride was further added thereto, and stirring was continued for 30 minutes at the same temperature. Ethyl acetate (1.2 mL) was added, the ethanol-dry ice bath was removed, and stirring was continued for 1 hour. Sodium sulfate decahydrate (3.8 g) was added and stirring was continued for 30 minutes. The precipitates were filtered using Celite and washed with ethyl acetate. The collected filtrate was concentrated under reduced pressure to obtain a crude product. The crude product was separated and purified by column chromatography to obtain tert-butyl (4-{3-[3,5-bis(trifluoromethyl)phenyl]-2-hydroxy-3-(trifluoromethyl)pyrrolidin-1-yl}-2-chlorobenzyl)carbamate (0.30 g).

reactant | Tert-butyl (4-{3-[3,5-bis(trifluoromethyl)phenyl]-2-oxo-3-(trifluoro-methyl)-pyrrolidin-1-yl}-2-chloro-benzyl)carbamate | 0.36 g | FC(C=1C=C(C=C(C1)C(F)(F)F)C1(C(N(CC1)C1=CC(=C(CNC(OC(C)(C)C)=O)C=C1)Cl)=O)C(F)(F)F)(F)F | C25H22ClF9N2O3
reactant | n-hexane | 1.8 mL | CCCCCC | C6H14
reactant | diisobutylaluminum hydride | 1 mol/l | [H-].C(C(C)C)[Al+]CC(C)C
reactant | ethanol dry ice | C(C)O.C(=O)=O
reactant | n-hexane | 0.6 mL | CCCCCC | C6H14
reactant | diisobutylaluminum hydride | 1 mol/l | [H-].C(C(C)C)[Al+]CC(C)C
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
solvent | Ethyl acetate | 1.2 mL | C(C)(=O)OCC | C4H8O2
product | tert-butyl (4-{3-[3,5-bis(trifluoromethyl)phenyl]-2-hydroxy-3-(trifluoromethyl)pyrrolidin-1-yl}-2-chlorobenzyl)carbamate | 0.30 g | FC(C=1C=C(C=C(C1)C(F)(F)F)C1(C(N(CC1)C1=CC(=C(CNC(OC(C)(C)C)=O)C=C1)Cl)O)C(F)(F)F)(F)F | C25H24ClF9N2O3
